US06552021B2
4-Methoxypyrido [2,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide was prepared from 4-Methoxypyrido[2,3-α]phenazine-11-carboxylic acid (II.1) and N,N-dimethylethylenediamine

reactant | 4-Methoxypyrido[2,3-α]phenazine-11-carboxylic acid | COC1=CC=NC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C17H11N3O3
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | 4-Methoxypyrido [2,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)N=CC=C4OC)C | C21H21N5O2
